US04087270
N-(3-Diethylamino-2, 4Dinitro-6-Trifluoromethylphenyl)-Pyrrolidone
The residue, which contained sodium pyrrolidone, was cooled to 40°, and a solution of 34.2 g of 2-chloro-4-diethylamino-3,5-dinitrobenzotrifluoride (0.1 m) in 50 cc of DMF was added in 0.5 hr. at 40°-46°. The reaction mixture was heated at 112°-115° for 21.5 hr., cooled, and partitioned between 100 cc of tolune and 200 cc of water. The toluene phase was given 5 × 100 cc water washes, and the toluene was removed by rotary evaporation, leaving 21.0 g of residue. The residue then was vacuum distilled using a micro short-path distillation apparatus. The product (5.5 g) distilled at 170°-180° (0.1-0.2 mm). The yellow distillate was recrystallized twice from 1 part of methanol to yield 2.2 g, 5.0% yield; mp 94°-95°; IR(KBr) 3080 (CH aromatic), 2990 (CH aliphatic), 1710 (C=O), 1530 and 1340 cm-1 (NO2); NMR (CDCl3) δ 8.1 (1, s, CH aromatic), 3.6 (2, t, CH2NCO), 3.1 (4, q NCH2 -CH3), 2.6-2.1 (4, m, CH2CH2C=O), 1.1 (6, t, CH3).

reactant | sodium pyrrolidone | N1C(CCC1)=O.[Na]
reactant | 2-chloro-4-diethylamino-3,5-dinitrobenzotrifluoride | 34.2 g | ClC1=C(C=C(C(=C1[N+](=O)[O-])N(CC)CC)[N+](=O)[O-])C(F)(F)F | C11H11ClF3N3O4
solvent | DMF | 50 cc | CN(C)C=O | C3H7NO
product | N-(3-Diethylamino-2, 4Dinitro-6-Trifluoromethylphenyl)-Pyrrolidone | 21.0 g, 5.0% yield | C(C)N(C=1C(=C(C(=CC1[N+](=O)[O-])C(F)(F)F)N1C(CCC1)=O)[N+](=O)[O-])CC | C15H17F3N4O5
